2180-10-10 03:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient had new onset of motor aphasia.  Neuro consulted.  MRI/MRA done
   with only minor caudate and fissure enhancement on DWI, patent vessels
   (normal per radiology prelim read).  BP goal increased to 140-180.
   Started on Neo.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Atropine - [**2180-10-9**] 08:46 PM
   Lorazepam (Ativan) - [**2180-10-10**] 12:40 AM
   Morphine Sulfate - [**2180-10-10**] 01:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-10**] 03:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 56 (44 - 70) bpm
   BP: 133/90(86) {107/56(69) - 150/90(91)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,648 mL
                                                                     92 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,408 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                      0 mL
   Urine:
                                                                    700 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                    248 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   GENERAL: Alert and Oriented [**11-17**]
   CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.  No abdominal bruits.
   EXTREMITIES: WWP
   PULSES:  Right: 2+ DP 2+ PT 2+  ;    Left: 1+ DP 2+ PT 2+
   Neuro:
   MS: Mood and affect appropriate.  Speech somewhat slowed.  Persistent
   anomia from last night, although somewhat improved.  Was able to
   identify parts of a watch, but called fingers and hand
pencil
,  When
   asked to raise right then left foot, he would raise his right then left
   arm.
   Cranial nerves: [**12-28**] intact.  PERRL, EOMI, vision grossly intact,
   symmetric [**3-20**] facial muscle strength, symmetric face, normal facial
   sensation, hearing equal, palate elevates symmetrically, [**3-20**] shoulder
   strength.
   Motor: Normal bulk and tone.  5/5 strength in upper and lower
   extremities
   Sensation: Equal throughout except for decreased sensation in 1st, 2nd
   fingers
   Coordination: rapid alternating movements and finger to nose intact. No
   pronator drift.
   Reflexes: 0-1+ bilaterally.  Toes downgoing
   Labs / Radiology
                                     135
                               [image002.gif]
                                     99
                               [image002.gif]
                                     12
   [image004.gif]
   187
                                                                   AGap=16
   [image005.gif]
   3.8
                               [image002.gif]
                                     24
                               [image002.gif]
                                     0.8
   [image007.gif]
   estGFR: [1]>75 (click for details)
   Ca: 8.8 Mg: 1.8 P: 3.4
   86
                                                                    14.4 D
                                                            [image007.gif]
                                    15.3
   [image004.gif]
   187
                 [image008.gif]
   [image004.gif]
                                    42.2
   [image007.gif]
   PT: 13.3
   PTT: 26.2
   INR: 1.1
   Assessment and Plan
   55 M with HTN, CAD s/p RCA stent, now s/p stenting of left carotid
   artery.
   .
   NEUROLOGIC DEFICIT - Likely embolic stroke from left carotid artery.
   MRI/MRA imaging shows minimal change which is good prognostic factor
   for recovery
   - F/U final MRI/MRA read
   - Maintain SBP 140-180
   - Serial neuro exams
   - Appreciate Neuro recs
   .
   STATUS-POST LEFT CAROTID ARTERY STENT - Left 95% lesion stented
   - Blood pressure goal 140-180, will use neosynepharin and nitroprusside
   as needed.
   - Monitory neuro exam q2 hrs.
   .
   CORONARY ARTERY DISEASE - no evidence of active ischemia
   - Continue on ASA, Statin, zetia, plavix
   - Hold beta-[**Last Name (LF) 867**], [**First Name3 (LF) 116**] restart.
   .
   PUMP:  Hypertension at baseline on Norvasc and atenolol.  Will hold for
   now.
   - Plan to restart antihypertensives in 3 days
   .
   RHYTHM:  Sinus bradycardia, likely from carotid stimulation.  Will
   observe.  Ionotropes if needed.
   .
   DIABETES: On metformin and glyburide at home.  Now NPO
   - Hold oral hypoglycemics
   - RISS
   .
   FEN:  Heart-healthy, diabetic diet.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SC Heparin
   -Pain managment as needed
   -Bowel regimen as needed
   -PPI not indicated
   CODE: Presumed full
   DISPO: CCU for now.  [**Month (only) 11**] call out tomorrow if neurologically and
   hemodynamically stable.
   .
   Contact: [**Name (NI) **] [**Name (NI) 2407**] (wife): [**Telephone/Fax (1) 2408**]
           1. IV access: Peripheral line Order date: [**10-9**] @ 1615
   10. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale Order date: [**10-9**] @ 1617
   2. Acetaminophen 325-650 mg PO ONCE MR1 headache Duration: 1 Doses
   Order date: [**10-9**] @ 2116
   11. Lorazepam 0.5-1 mg PO/IV ONCE MR1 for MRI/MRA Duration: 1 Doses
   Order date: [**10-9**] @ 2116
   3. Aspirin EC 325 mg PO DAILY  Order date: [**10-9**] @ 1454
   12. Morphine Sulfate 2 mg IV ONCE MR1 Duration: 1 Doses Order date:
   [**10-10**] @ 0028
   4. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 11**] repeat up to 2 mg total (including Atropine during procedure)
   Order date: [**10-9**] @ 1454
   13. Morphine Sulfate 2-8 mg IV ONCE Duration: 1 Doses Order date: [**10-10**]
   @ 0059
   5. Atropine Sulfate 0.5 mg IV STAT Duration: 1 Doses Order date: [**10-9**]
   @ 2031
   14. Ondansetron 4 mg IV ONCE PRN Duration: 1 Doses Order date: [**10-9**] @
   2116
   6. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**10-9**] @ 1454
   15. Phenylephrine 0.2 mcg/kg/min IV DRIP TITRATE TO SBP 140-160  Order
   date: [**10-9**] @ 2032
   7. Ezetimibe 10 mg PO DAILY  Order date: [**10-9**] @ 1617
   16. Simvastatin 80 mg PO DAILY  Order date: [**10-9**] @ 1617
   8. Heparin 5000 UNIT SC TID  Order date: [**10-9**] @ [**2125**]
   17. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-9**] @ 1615
   9. Influenza Virus Vaccine 0.5 mL IM ASDIR
   Follow Influenza Protocol Document administration in POE   Order date:
   [**10-9**] @ 1611
References
   1. [**Doctor Last Name 1051**]/

2180-10-11 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 55 M with HTN, CAD s/p RCA stent, now s/p stenting of
   left carotid artery, complicated by transient neurological changed.
   24 Hour Events:
   Neuro changes thought to be secondary to migraine per neuro. Now
   completely resolved. Ambulated but BP still low (goal >130). Given 5
   boluses of 250ml IVF and increased Neo, but urinating a lot.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-10-10**] 11:57 PM
   Other medications:
   Flowsheet Data as of  [**2180-10-11**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 49 (49 - 82) bpm
   BP: 108/75(82) {108/47(65) - 155/97(107)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,106 mL
                                                                    177 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                    596 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  4,450 mL
                                                                    700 mL
   Urine:
                                                                  4,450 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,344 mL
                                                                   -523 mL
   Physical Examination
   GENERAL: NAD
   CARDIAC: RR, normal S1, S2. No m/r/g
   LUNGS: CTAB
   ABDOMEN: Soft, NTND. No HSM or masses
   EXTREMITIES: WWP, no edema, strong distal pulses
   NEURO:  A+Ox3, no word finding difficulties, no pronator drift. Answers
   question and follows directions appropriately. CN II
XII in tact.
   Strength and sensation in tact.
   Labs / Radiology
   173 K/uL
   14.2 g/dL
   164 mg/dL
   0.9 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   105 mEq/L
   141 mEq/L
   40.1 %
   10.4 K/uL
        [image002.jpg]
                            [**2180-10-10**]  03:14 AM
                            [**2180-10-11**]  02:49 AM
   WBC
   14.4
   10.4
   Hct
   42.2
   40.1
   Plt
   187
   173
   Cr
   0.8
   0.9
   Glucose
   187
   164
   Other labs: PT / PTT / INR:12.6/27.8/1.1, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   55 M with HTN, CAD s/p RCA stent, now s/p stenting of left carotid
   artery.
   NEUROLOGIC DEFICIT - Word finding difficulty developed after procedure,
   resolved in less than 24hrs.
   - DDx embolic stroke from left carotid artery vs migraine per neuro.
   MRI/MRA imaging shows minimal change which is good prognostic factor
   for recovery. Also speech center with good collaterals.
   - F/U final MRI/MRA read not available.
   - Maintain SBP 130-180
   - Serial neuro exams
   STATUS-POST LEFT CAROTID ARTERY STENT - Left 95% lesion stented
   - Blood pressure goal 140-180, using IVF to get off Neo (holding home
   Norvasc and atenolol)
   - Serial neuro exams
   CORONARY ARTERY DISEASE - no evidence of active ischemia
   - Continue on ASA, Statin, zetia, plavix
   - Hold beta-[**Last Name (LF) 867**], [**First Name3 (LF) 116**] restart once BP higher.
   RHYTHM:  Sinus bradycardia (likely from carotid stimulation) resolved.
   AUTODIURESIS: Etiology likely vagal response. Will need replacement IVF
   to keep up with BP.
   - Hopefully will break vagal cycle with catecholamine release of
   ambulation.
   DIABETES: Holding home metformin and glyburide, on RISS
   FEN: Cardiac/Diabetic diet, lytes prn, Post cath hydration, IVF to
   increase BP
   ACCESS: PIV's
   PROPHYLAXIS: SC Heparin
   CODE: Presumed full
   DISPO: Home once off neo
   Contact: [**Name (NI) **] [**Name (NI) 2407**] (wife): [**Telephone/Fax (1) 2408**]
                       Active Medications [**Known lastname **],[**Known firstname 1326**]
                        1. Aspirin EC 325 mg PO DAILY
   5. Heparin 5000 UNIT SC TID
   2. Clopidogrel 75 mg PO DAILY
   6. Insulin SC  (per Insulin Flowsheet)
   3. Simvastatin 80 mg PO DAILY
   7. Phenylephrine 0.6 mcg/kg/min IV DRIP
   4. Ezetimibe 10 mg PO DAILY